* psu_medlow_usbc — 5V USB-C wall adapter + 500 mA polyfuse + bypass cap
*
* Circuit topology:
*   USB-C VBUS (5V, regulated by the wall adapter) -> Rfuse
*     -> Cbypass (100 nF, output to GND) -> Rload -> GND
*
* Spec target: 5V USB path of psu_medlow (docs/spacetime_circuits_dependency.md
* — "Medium: 5V USB + Regulator OR 12V" subgraph). No local regulation: the
* wall adapter already regulates to 5V, so this is fuse + bypass only.
*
* Load swept from 5 to 50 ohm to show behaviour around the 500 mA fuse
* threshold (Rload = 10 ohm -> ~500 mA, right at the trip point by design).
*
* NOT MODELED: USB-C CC1/CC2 sink termination and PD negotiation. Vusb=5.0
* here assumes VBUS is already present. Whether the physical breakout
* board (passive, no PD controller IC) actually gets a source to drive
* VBUS is unverified -- see README.md "Status" before treating this as a
* complete circuit.

Vusb    1 0 DC 5.0
Rfuse   1 2 0.5                ; 500 mA polyfuse, cold-state resistance
Cbypass 2 0 100n               ; smooths USB power-rail ripple
Rload   2 0 10                 ; nominal load: ~5V / 10R ~= 500 mA

.control
op
print v(2) i(Vusb)

dc Rload 5 50 5
print v(2)
quit
.endc

.end
